US06020342
4-Amino-6-methylthieno[3,2-c]pyridine
To a solution of 24 g of 4-(4-methoxybenzyl)amino-6-methylthieno[3,2-c]pyridine in 80 ml of trifluoroacetic acid was added 15 ml of concentrated sulfuric acid, and the mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was poured into ice water, rendered alkaline by the addition of 28% ammonia water and extracted with chloroform. The extract was washed with water and saturated saline, dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel and recrystallized from chloroform/petroleum ether to give 15 g of the title compound as a white powder.

reactant | 4-(4-methoxybenzyl)amino-6-methylthieno[3,2-c]pyridine | 24 g | COC1=CC=C(CNC2=NC(=CC3=C2C=CS3)C)C=C1 | C16H16N2OS
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia water | O.N
solvent | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Amino-6-methylthieno[3,2-c]pyridine | 15 g | NC1=NC(=CC2=C1C=CS2)C | C8H8N2S
